US08835420B2
Preparation x14: (S)-1-(1-Methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine
(S)-1-(6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (1.6 g, 6.30 mmol) was stirred with potassium tert-butoxide (2.83 g, 25.2 mmol) and morpholine (6.58 g, 76 mmol) in DME (50 mL) at 88° C. for 4 hours. The mixture was then concentrated in vacuo. The residue was taken up in acetonitrile and water, and was lyophilized to give the title compound, which was used without further purification. ESI-MS m/z [M+H]+ calc'd for C14H20N4O, 261; found 261.

reactant | (S)-1-(6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 6.30 mmol, 1.6 g | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | potassium tert-butoxide | 25.2 mmol, 2.83 g | CC(C)([O-])C.[K+]
reactant | morpholine | 76 mmol, 6.58 g | N1CCOCC1 | C4H9NO
solvent | DME | 50 mL | COCCOC | C4H10O2
product | (S)-1-(1-Methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | CN1C=CC2=NC(=C(C=C21)N2CCOCC2)[C@H](C)N | C14H20N4O
